Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Beta-Blockers (Beta-Adrenergic Blocking Agts) / Calcium Channel 
Blocking Agents-Dihydropyridines / baclofen / nadolol / 
pentoxifylline / trazodone
 
Attending: ___.
 
Chief Complaint:
fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 Ms. ___ is a ___ woman with a history of
atypical chest pain, 80% mid LAD lesion, atrial fibrillation 
with
RVR leading to heart failure in ___ complicated by volume
overload requiring intubation who presented with a fall in the
setting of light headedness. Yesterday she was sitting on her
sofa at home and felt "not right", though she denied any chest
pain or palpitations. She stood up and walked to her balcony,
going down four steps, and felt light headed. She lost her
balance, and fells down those stairs. She did not lose
consciousness and was not confused. Because her son was not
around, she presented to the hospital because she was worried
there was no one else around to help her. She did not have any
chest pain throughout the whole process.

Over the past several weeks, she has not quite felt herself --
she has found herself forgetting things more, and having low
energy and lying in bed. She denies any fevers, chills, urinary
symptoms, abdominal pain, lower extremity edema, shortness of
breath. She can walk independently up three flights of stairs,
and with no limitations; this has not changed lately. 

As for her cardiac history, she has been seeing Dr. ___ at
___ for atypical chest pain. She was admitted in ___ for
volume overload and hypoxic respiratory failure requiring
intubation, all due to atrial fibrillation with RVR. She is no
longer on any diuretics and was started on metoprolol and
apixaban.

Work up at that time showed:

Cardiac catheterization in ___ showed: LAD with a tubular
mid-stenosis 

TTE in ___ showed: Mild symmetric left ventricular
hypertrophy with preserved biventricular systolic
function. Moderate tricuspid regurgitation. Borderline pulmonary
hypertension.

She currently has a Lynq implantable loop device, which had 
shown
runs of NSVT not associated with symptoms. Dr. ___ that 
her
symptoms were not explained by her LAD lesion, and had not
recommended additional testing.

In the emergency room she had a CT C-spine without contrast with
no fracture, elbow and arm x-ray without fracture, CT head
without intracranial process, and chest x-ray with no acute
cardiopulmonary process.

AVSS. Labs were normal with two negative troponins. Admitted to
medicine "Given patient's cardiac history, chest pain and risk
factors patient will be admitted for ACS rule out and syncope
evaluation."

 
Past Medical History:
pAF leading to acute heart failure
depression and anxiety
ventricular ectopy
80% mid LAD lesion
atypical chest pain
connective tissue disease

 
Social History:
___
Family History:
FAMILY HISTORY:  
Glaucoma: PGM, Macular Degeneration: mother
Father: died of MI; 
No family history of arrhythmia, cardiomyopathies, or sudden 
cardiac death; otherwise non-contributory.
 
Physical Exam:
VITALS: Afebrile, ___ otherwise VSS, orthostatic vital
signs were taken, SBP 175/89, to 159/81 on standing (see
eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: II/VI systolic murmur at the RUSB
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Walked with patient in the hall, independent without any
assistive device, also able to walk up and down stairs while
using grab bar.
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
LABORATORY RESULTS:

___ 09:52PM BLOOD WBC-5.6 RBC-4.22 Hgb-12.4 Hct-38.5 MCV-91 
MCH-29.4 MCHC-32.2 RDW-14.1 RDWSD-47.1* Plt ___
___ 09:52PM BLOOD Neuts-56.6 ___ Monos-9.9 Eos-0.5* 
Baso-0.4 Im ___ AbsNeut-3.19 AbsLymp-1.83 AbsMono-0.56 
AbsEos-0.03* AbsBaso-0.02
___ 09:52PM BLOOD Plt ___
___ 09:52PM BLOOD ___ PTT-33.2 ___
___ 09:52PM BLOOD Glucose-92 UreaN-17 Creat-0.8 Na-140 
K-4.2 Cl-102 HCO3-24 AnGap-14
___ 09:52PM BLOOD AST-34 AlkPhos-64 TotBili-0.5
___ 10:00AM BLOOD cTropnT-<0.01
___ 03:50AM BLOOD cTropnT-<0.01
___ 09:52PM BLOOD cTropnT-<0.01
___ 09:52PM BLOOD Albumin-4.0 Calcium-9.2 Phos-4.1 Mg-2.4

CT C-Spine:

No evidence of traumatic cervical malalignment or acute 
fracture.

CT Head:

No acute intracranial process.

CT Elbow:

Normal left elbow x-ray examination.

EKG: NSR, HR 83, no evidence of ischemia
 
Brief Hospital Course:
Ms. ___ is a ___ woman with a known 80% LAD lesion, 
history of pAF, who is admitted with a fall in the setting of 
dizziness. She did not have syncope, and this dizziness is 
long-standing. She has already had an extensive work up (recent 
cath, TTE, Linq loop recorder). Orthostatics were negative, and 
she was able to walk at her baseline. Troponins x3 were 
negative. The patient felt at her baseline and strongly desired 
to go home. With three negative troponins and her otherwise at 
her baseline, we planned for her to follow up with Dr. ___ as 
an outpatient. Her Linq can be interrogated at this time. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. BuPROPion XL (Once Daily) 300 mg PO DAILY 
3. Hydroxychloroquine Sulfate 200 mg PO DAILY 
4. Omeprazole 20 mg PO QAM 
5. Rosuvastatin Calcium 20 mg PO QPM 
6. Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever 
7. Apixaban 2.5 mg PO BID 
8. Alendronate Sodium 70 mg PO 1X/WEEK (___) 
9. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN angina 
10. Vitamin D 400 UNIT PO DAILY 
11. Metoprolol Succinate XL 50 mg PO DAILY 
12. oxybutynin chloride 5 mg oral DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever  
2.  Alendronate Sodium 70 mg PO 1X/WEEK (___)  
3.  Apixaban 2.5 mg PO BID  
4.  Aspirin 81 mg PO DAILY  
5.  BuPROPion XL (Once Daily) 300 mg PO DAILY  
6.  Hydroxychloroquine Sulfate 200 mg PO DAILY  
7.  Metoprolol Succinate XL 50 mg PO DAILY  
8.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN angina  
9.  Omeprazole 20 mg PO QAM  
10.  oxybutynin chloride 5 mg oral DAILY  
11.  Rosuvastatin Calcium 20 mg PO QPM  
12.  Vitamin D 400 UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Fall
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted to the hospital after a fall in the setting of 
dizziness. You had several blood tests drawn which showed that 
you did not have a heart attack. You have already had a detailed 
cardiac work up. Because you strongly desired to return home, 
you did not lose consciousness, and there is no additional work 
up to be done, you will follow up with Dr. ___ in the 
outpatient setting for continued work up of your dizziness.
 
Followup Instructions:
___